US07504408B2
N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazolin-4-amine
A solution of sodium bis(trimethylsilyl)amide (1.10 ml) in tetrahydrofuran (1.0M, 1.10 mmol) was added to a suspension of 5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl-amine (0.139 g) and 4-chloro-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazoline (0.223 g) in DMF (5 ml) that had been cooled to −10° C. and the mixture was stirred for 90 minutes then the reaction was allowed to warm to room temperature and stirred for a further 2 hours. The reaction mixture was quenched into water and saturated ammonium chloride solution was added. This was then extracted into dichloromethane and the organic portion was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol as eluent. The product material gathered after chromatography as a foam was triturated with diethyl ether and air-dried giving an off-white solid. There was thus obtained the title compound (0.216 g) as a grey solid;

reactant | sodium bis(trimethylsilyl)amide | 1.10 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.10 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | 5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl-amine | 0.139 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)N | C12H12ClNO3
reactant | 4-chloro-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazoline | 0.223 g | ClC1=NC=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCN1CCOCC1 | C20H26ClN3O4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazolin-4-amine | 0.216 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCN1CCOCC1 | C32H37ClN4O7
